US20010027200A1
To a suspension of potassium t-butoxide (1.5 g) in THF (15 mL) was added 3-chloro-5-hydroxypyridine (1.79 g, mmol). To this solution was added a solution of N-ethyl-2-chloro-5-nitrobenzamide (2.76 g, mmol) in THF (15 mL). The resulting mixture was heated at 50° C. for 84 hr. After cooling, the reaction mixture was diluted into a mixture of water and ether. Solids were collected by filtration, washed with water then with ether, and dried under vacuum to afford N-ethyl 5-nitro-2-(3-chloro-5-pyridyloxy)benzamide (2.0 g, 52%). mp 165-167° C.

reactant | potassium t-butoxide | 1.5 g | CC(C)([O-])C.[K+]
reactant | 3-chloro-5-hydroxypyridine | 1.79 g | ClC=1C=NC=C(C1)O | C5H4ClNO
reactant | N-ethyl-2-chloro-5-nitrobenzamide | 2.76 g | C(C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])Cl)=O | C9H9ClN2O3
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-ethyl 5-nitro-2-(3-chloro-5-pyridyloxy)benzamide | 2.0 g, 52% | C(C)NC(C1=C(C=CC(=C1)[N+](=O)[O-])OC=1C=C(C=NC1)Cl)=O | C14H12ClN3O4
